US05766932
Suspend Boc-(L)-Pal-OH (1.34 g, 5 mmol) in methylene chloride (50 mL) and cool to -15° C. Add diisopropylethylamine (963 μl, 5.5 mmol) and isobutylchloroformate (715 μL, 5.5 mmol). Stir the mixture 15 minutes at -15° C. Pass through the solution a vigorous stream of anhydrous ammonia (over solid sodium hydroxide) for about 3 minutes. Stir the mixture 10 minutes at -15° C. and 20 minutes at room temperature. Evaporate methylene chloride, add ethyl acetate (70 mL) and wash with saturated aqueous solution of sodium bicarbonate. Dry over magnesium sulfate and evaporate. Crystallize from ethyl acetate/hexane to give Boc-(L)-Pal-NH2 (0.98 g, 75%).

reactant | Boc-(L)-Pal-OH | 5 mmol, 1.34 g | N([C@@H](CC1=CC=CN=C1)C(=O)O)C(=O)OC(C)(C)C | C13H18N2O4
reactant | diisopropylethylamine | 5.5 mmol, 963 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isobutylchloroformate | 5.5 mmol, 715 μL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | N | H3N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
product | Boc-(L)-Pal-NH2 | 0.98 g, 75% | N([C@@H](CC1=CC=CN=C1)C(=O)N)C(=O)OC(C)(C)C | C13H19N3O3
